US04207419
1-Bromo-4-Methyl-4-Phenyl-trans-1-Penten-3-ol
An ice-cold solution of 7.8 g. of 1-bromo-4-methyl-4-phenyl-trans-1-penten-3-one in 100 ml. of methanol was treated with 1.4 g. of sodium borohydride and stirred at 0° for one hour. The solvent was evaporated and the residue was dissolved in water then extracted with ether. The ether extract was dried with MgSO4 and evaporated to afford 8.0 g. of the title product as a colorless oil, λmaxfilm 2.95, 3.4, 6.12, 6.20, 6.62, 6.88, 7.18, 7.28, 7.82, 9.30, 9.68, 10.00, 10.55, 12.95, 13.45 and 14.24 μ.

reactant | 1-bromo-4-methyl-4-phenyl-trans-1-penten-3-one | Br\C=C\C(C(C)(C1=CC=CC=C1)C)=O | C12H13BrO
reactant | sodium borohydride | [BH4-].[Na+]
solvent | methanol | CO | CH4O
product | 1-Bromo-4-Methyl-4-Phenyl-trans-1-Penten-3-ol | Br\C=C\C(C(C)(C1=CC=CC=C1)C)O | C12H15BrO
